US06130229
4-(9-Bromo-8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-piperidine (130 mg, 0.33 mmol), 4-pyridine-acetic acid 1-oxide (130 mg, 0.85 mmol), HOBT (120 mg, 0.89 mmol), and EDCl (160 mg, 0.83 mmol) were stirred at 0° C. in DMF (5 ml, anhydrous). N-Methyl-morpholine (0.5 ml, 4.53 mmol) was added, and the reaction mixture was stirred overnight at 20° C. The solvent was evaporated off, and the residue was extracted with methylene chloride (2×100 ml) and water (30 ml). The organic layer was separated and dried (MgSO4), filtered and evaporated, yielding an oil which was chromatographed on silica gel and eluted with 15%methanol/ethylacetate containing 2% ammonium hydroxide. The product was obtained as a white solid, 4-(9-bromo-8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-1-(4-pyridine-acetyl)piperidine N1-oxide (170 mg, 98%). MS (FAB, M+H)=526.

reactant | 4-(9-Bromo-8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-piperidine | 0.33 mmol, 130 mg | BrC=1C(=CC2=C(C(C3=NC=CC=C3CO2)=C2CCNCC2)C1)Cl | C18H16BrClN2O
reactant | 4-pyridine-acetic acid 1-oxide | 0.85 mmol, 130 mg | [N+]1(=CC=C(C=C1)CC(=O)O)[O-] | C7H7NO3
reactant | HOBT | 0.89 mmol, 120 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.83 mmol, 160 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-Methyl-morpholine | 4.53 mmol, 0.5 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(9-bromo-8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-1-(4-pyridine-acetyl)piperidine N1-oxide | 170 mg, 98% | BrC=1C(=CC2=C(C(C3=NC=CC=C3CO2)=C2CC[N+](CC2)(C(CC2=CC=NC=C2)=O)[O-])C1)Cl | C25H21BrClN3O3
